US07507747B2
2-(8-Methyl-8-aza-bicyclo[3.2.1]oct-3-ylidene)-1,1-diphenyl-ethanol
The title compound was prepared from (8-methyl-8-aza-bicyclo[3.2.1]oct-3-ylidene)-acetic acid methyl ester and phenylmagnesium chloride by following the experimental procedures in Example 1 (44% yield): LCMS (ES) m/z 320 (M+H)+; 1H-NMR(CDCl3) δ 1.20 (m, 1H), 1.54 (m, 1H), 1.70 (m, 1H), 1.77 (m, 1H), 1.93 (m, 1H), 2.04 (m, 1H), 2.26 (s, 3H), 2.35 (m, 1H), 2.71 (m, 1H), 2.97 (m, 1H), 3.19 (m, 1H), 6.14 (s, 1H), 7.21 (m, 2H), 7.30 (m, 4H), 7.45 (m, 2H), 7.53 (m, 2H).

reactant | (8-methyl-8-aza-bicyclo[3.2.1]oct-3-ylidene)-acetic acid methyl ester | COC(C=C1CC2CCC(C1)N2C)=O | C11H17NO2
reactant | phenylmagnesium chloride | C1(=CC=CC=C1)[Mg]Cl
product | 2-(8-Methyl-8-aza-bicyclo[3.2.1]oct-3-ylidene)-1,1-diphenyl-ethanol | CN1C2CC(CC1CC2)=CC(O)(C2=CC=CC=C2)C2=CC=CC=C2 | C22H25NO
